US09084794B2
a) 2-(4-bromo-2-fluorophenyl)-N-methylacetamide
A solution of 2-(4-bromo-2-fluorophenyl)acetic acid (10.56 mmol) in dichloromethane (20 mL) was treated with oxalyl chloride (31.7 mmol) and dimethylformamide (0.106 mmol). Effervescense was observed for fifteen minutes. When the bubbling had ceased, the reaction was concentrated to dryness in vacuo. The resulting oil was dissolved with dichloromethane and was concentrated to dryness in vacuo. The material was then diluted with tetrahydrofuran (20 mL) and was treated with methanamine (31.7 mmol) dropwise. Effervescense was again observed. A precipitate formed as the reaction was stirred over a two hour period. The contents of the reaction were concentrated to dryness in vacuo and were then dissolved in a minimal amount of methanol. Ethyl acetate was then added to this solution until a solid precipitated. The precipitate was collected by vacuum filtration. In a similar manner, two additional crops were collected from the mother liquor. The resulting solids were combined and triturated with dichloromethane. Purification of the solid by silica gel chromatography (0-5% methanol/dichloromethane) afforded the title compound as a white solid (610 mg, 22% yield). MS(ES)+ m/e 246.0/247.8 [M+H]+ (bromide isotope pattern).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 10.56 mmol | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | oxalyl chloride | 31.7 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanamine | 31.7 mmol | CN | CH5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | 0.106 mmol | CN(C=O)C | C3H7NO
product | 2-(4-bromo-2-fluorophenyl)-N-methylacetamide | 610 mg, 22% yield | BrC1=CC(=C(C=C1)CC(=O)NC)F | C9H9BrFNO
